US07592373B2
4.21.a. diethyl-[2-(2-methyl-4-nitrophenoxy)ethyl]amine
0.92 g (19.2 mmol) of sodium hydride (50% in oil) is added at 0° C. under an argon atmosphere to a solution of 2.70 g (17.4 mmol) of 2-fluoro-5-nitrotoluene and 2.54 mL (19.2 mmol) of 2-diethylaminoethanol in 50 mL of DMF and the mixture is stirred for 2 hours at 0° C. and for 1 hour at ambient temperature. The solvent is removed, the residue is taken up in ethyl acetate, and extracted with water. The organic phase is dried over sodium sulfate and evaporated down in vacuo. Then it is purified by silica gel column chromatography with dichloromethane/methanol (9:1) as eluant. Yield: 3.1 g (71% of theory); C13H20N2O3 (M=252.31); calc.: molecular ion peak (M+H)+: 253; found: molecular ion peak (M+H)+: 253; Rf value: 0.60 (silica gel, dichloromethane/methanol (9:1)).

reactant | sodium hydride | 19.2 mmol, 0.92 g | [H-].[Na+]
reactant | 2-fluoro-5-nitrotoluene | 17.4 mmol, 2.70 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | 2-diethylaminoethanol | 19.2 mmol, 2.54 mL | C(C)N(CCO)CC | C6H15NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | diethyl-[2-(2-methyl-4-nitrophenoxy)ethyl]amine | C(C)N(CCOC1=C(C=C(C=C1)[N+](=O)[O-])C)CC | C13H20N2O3
